US03992535
15.6 gm (0.1 mol) of ethyl iodide were added dropwise in several portions to a solution of 10.0 gm (0.034 mol) of 2H-naphtho[2,1-e]-1,2-thiazine-4(3H)-one-1,1-dioxide-ethylene ketal in a mixture of 150 ml of isopropanol, 36 ml of 1 N sodium hydroxide and 36 ml of water, while stirring. Stirring was continued for 84 hours, whereupon the mixture was evaporated in vacuo, the residue was taken up in methylenechloride, and the solution was washed with water, dried and evaporated. 10.9 gm (99% of theory) of 2-ethyl-2H-naphtho[2,1-e]-1,2-thiazine-4(3H)-one-1,1-dioxide-ethylene ketal were obtained, which were used as such in the next reaction step.

reactant | ethyl iodide | 0.1 mol, 15.6 gm | C(C)I | C2H5I
reactant | 2H-naphtho[2,1-e]-1,2-thiazine-4(3H)-one-1,1-dioxide-ethylene ketal | 0.034 mol, 10.0 gm | C1COC2(CNS(C3=C2C=CC2=CC=CC=C23)(=O)=O)O1 | C14H13NO4S
reactant | sodium hydroxide | 1 N, 36 ml | [OH-].[Na+]
reactant | water | 36 ml | O | H2O
solvent | isopropanol | 150 ml | C(C)(C)O | C3H8O
product | 2-ethyl-2H-naphtho[2,1-e]-1,2-thiazine-4(3H)-one-1,1-dioxide-ethylene ketal | 10.9 gm, 99% | C1COC2(CN(S(C3=C2C=CC2=CC=CC=C23)(=O)=O)CC)O1 | C16H17NO4S
